US06432976B1
8-Aza-bicyclo[3.2.1]octane-3-carboxylic Acid 2-Fluoro-benzylamide
A solution of 0.15 g of 3-(2-fluoro-benzylcarbamoyl)-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid ethyl ester and 0.5 mL of trimethylsilyl iodide in 25 mL of chloroform was kept at room temperature for 48 h, shaken with 25 mL of 6N NaOH and dilute sodium sulfite and dried over magnesium sulfate. Removal of solvents gave 0.09 g of a resin.

reactant | 3-(2-fluoro-benzylcarbamoyl)-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid ethyl ester | 0.15 g | C(C)OC(=O)N1C2CC(CC1CC2)C(NCC2=C(C=CC=C2)F)=O | C18H23FN2O3
reactant | trimethylsilyl iodide | 0.5 mL | C[Si](C)(C)I | C3H9ISi
reactant | NaOH | 6N, 25 mL | [OH-].[Na+]
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
product | 8-Aza-bicyclo[3.2.1]octane-3-carboxylic Acid 2-Fluoro-benzylamide | 0.09 g | FC1=C(CNC(=O)C2CC3CCC(C2)N3)C=CC=C1 | C15H19FN2O
